US07671063B2
To a solution of 22.5 g (149 mmol) 2,3-dihydro-benzo[1,4]dioxin-6-ylamine and 25 ml (179 mmol) triethylamine in 1 l diethyl ether is added at 12° C. within 10 minutes 20 ml (164 mmol) pivaloyl chloride dissolved in 250 ml diethyl ether. The temperature is kept between 12-16° C. The reaction mixture is stirred at room temperature for 1 hour. Then it is washed with 2× with 300 ml water, 2× with 150 ml 1 N HCl and 2× with brine, dried with Na2SO4 and partially evaporated to a volume of 80 ml. This leads to a suspension. Hexane is added and the solid is filtered to give N-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-2,2-dimethyl-propionamide.

reactant | 2,3-dihydro-benzo[1,4]dioxin-6-ylamine | 149 mmol, 22.5 g | O1CCOC2=C1C=CC(=C2)N | C8H9NO2
reactant | triethylamine | 179 mmol, 25 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 164 mmol, 20 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | diethyl ether | 1 l | C(C)OCC | C4H10O
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | N-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-2,2-dimethyl-propionamide | O1CCOC2=C1C=CC(=C2)NC(C(C)(C)C)=O | C13H17NO3
